US07109225B2
f] 4-[2-(2-Cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-3,5-dimethyl-benzaldehyde
0.400 g of the above prepared 2-(2-cyclohexyl-5-methyl-oxazol-4-yl)-ethanol (1.91 mmol) was dissolved in 10 ml of toluene and treated successively at 0° C. with 0.287 g of 3,5-dimethyl-4-hydroxybenzaldehyde (1.91 mmol), 0.501 g of triphenylphosphine (1.91 mmol), and 0.387 g (1.91 mmol) of DIAD. The cooling bath was then removed and stirring continued for 2 h. Pouring onto crashed ice, twofold extraction with AcOEt, washing with dil. NaOH and water, drying over sodium sulfate, and evaporation of the solvents, followed by flash chromatography (SiO2, hexane/AcOEt=85/15) delivered finally 0.415 g of the title compound as colorless oil.

reactant | 2-(2-cyclohexyl-5-methyl-oxazol-4-yl)-ethanol | 1.91 mmol | C1(CCCCC1)C=1OC(=C(N1)CCO)C | C12H19NO2
reactant | 3,5-dimethyl-4-hydroxybenzaldehyde | 1.91 mmol, 0.287 g | CC=1C=C(C=O)C=C(C1O)C | C9H10O2
reactant | triphenylphosphine | 1.91 mmol, 0.501 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 1.91 mmol, 0.387 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[2-(2-Cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-3,5-dimethyl-benzaldehyde | C1(CCCCC1)C=1OC(=C(N1)CCOC1=C(C=C(C=O)C=C1C)C)C | C21H27NO3
